US05202437
To a solution of (2S,4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (5 g) and triethylamine (1.87 ml) in N,N-dimethylformamide (50 ml) was dropwise added ethyl bromoacetate (1.49 ml) at ambient temperature with stirring. The mixture was stirred at 40° C. for 30 minutes and then allowed to stand at ambient temperature for 6 hours. The reaction mixture was poured into saturated aqueous sodium chloride (100 ml) and extracted twice with ethyl acetate (100 ml). The extract was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The resulting residue was subjected to a column chromatography on silica gel (100 g) eluting with a mixture of dichloromethane and acetone (20:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-t-butyldimethylsilyloxy-2-[(ethoxycarbonylmethyl)-aminomethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (3.52 g).

reactant | (2S,4R)-2-aminomethyl-4-t-butyldimethylsilyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 5 g | NC[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H31N3O5Si
reactant | triethylamine | 1.87 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 1.49 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (2S,4R)-4-t-butyldimethylsilyloxy-2-[(ethoxycarbonylmethyl)-aminomethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 3.52 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(N)CC(=O)OCC | C23H37N3O7Si
